US09169254B2
4-{2-[2-(3-Benzyloxy-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-3-methyl-benzoic acid tert-butyl ester (952.0 mg, 1.39 mmol) was dissolved in ethyl acetate (15.0 ml)-THF (5.0 ml). Pd—C (190.4 mg) was added and the mixture was stirred at room temperature for one hour in a hydrogen atmosphere. After completion of the reaction, the precipitated solid was dissolved by adding dichloromethane and methanol, and the remaining black solid was then filtered off through celite. The filtrate was concentrated under reduced pressure to give 4-{2-[2-(3-hydroxy-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-3-methyl-benzoic acid tert-butyl ester as a white solid (776.2 mg, 93.8%).

reactant | 4-{2-[2-(3-Benzyloxy-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-3-methyl-benzoic acid tert-butyl ester | 1.39 mmol, 952.0 mg | C(C)(C)(C)OC(C1=CC(=C(C=C1)CCS(=O)(=O)N1CCC2(C(NC(=N2)C2=CC(=CC(=C2)C(F)(F)F)OCC2=CC=CC=C2)=O)CC1)C)=O | C35H38F3N3O6S
reactant | hydrogen | [H][H] | H2
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | methanol | CO | CH4O
solvent | ethyl acetate | 15.0 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 5.0 ml | C1CCOC1 | C4H8O
catalyst | Pd—C | 190.4 mg | [Pd] | Pd
product | 4-{2-[2-(3-hydroxy-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-3-methyl-benzoic acid tert-butyl ester | 776.2 mg, 93.8% | C(C)(C)(C)OC(C1=CC(=C(C=C1)CCS(=O)(=O)N1CCC2(C(NC(=N2)C2=CC(=CC(=C2)C(F)(F)F)O)=O)CC1)C)=O | C28H32F3N3O6S
